US07435837B2
Treatment of 2′,6′-dichloro-1,1′-biphenyl-2-ol (17.95 g, 75.06 mmol) with potassium carbonate (41.38 g, 299.43 mmol) and allyl bromide (10.89 g, 90.08 mol), followed by refluxing the resultant allyl ether in mesitylene generally according to the procedure described for Intermediate 8 provided 3-allyl-2′,6′-dichloro-1,1′-biphenyl-2-ol. Treatment of 3-allyl-2′,6′-dichloro-1,1′-biphenyl-2-ol (16.5 g, 59.10 mmol) with 3-chloroperoxybenzoic acid (30.59 g, 177.3 mmol, 77%) followed by potassium carbonate (20.41 g, 14.77 mmol) generally according to the procedure described for Intermediate 9 afforded 11.2 g (64%) of (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol. Treatment of (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol (11.2 g, 37.94 mmol) with p-toluenesulfonyl chloride (8.68 g, 45.53 mol) generally according to the procedure described for Intermediate 10 gave 15.2 g (89%) of (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a yellow oil. Anal. calcd. for C22H18Cl2O4S: C, 58.8; H, 4.04. Found: C, 58.1; H, 4.05.

reactant | (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanol | 37.94 mmol, 11.2 g | ClC1=C(C(=CC=C1)Cl)C1=CC=CC=2CC(OC21)CO | C15H12Cl2O2
reactant | p-toluenesulfonyl chloride | 45.53 mol, 8.68 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (±)-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 15.2 g, 89% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC=C2Cl)Cl | C22H18Cl2O4S
